US05461158
N-benzyl-2,4-bis(2-tetrahydropyranylthiomethyl)-4-butanelactam (compound No.21-1)
To a solution of N-benzyl-2,4-bis(mercaptomethyl)-4-butanelactam (compound No.15-2, 134 mg) in dry ether (2 ml), dihydropyran (110 mg) dissolved in dry ether (2 ml) is added under nitrogen atmosphere and then boron trifluoride diethyl ether complex (15 mg) dissolved in dry ether (1 ml) is added to the mixture. The mixture is stirred overnight at room temperature. The mixture is diluted with a mixture of benzene and ethyl acetate and washed with 10% aqueous sodium bicarbonate solution, water and saturated sodium chloride solution. The organic layer is dried over anhydrous sodium sulfate and concentrated in vacuo. The oily residue is purified by silica gel column chromatography to give the titled compound.

reactant | N-benzyl-2,4-bis(mercaptomethyl)-4-butanelactam | 134 mg | C(C1=CC=CC=C1)N1C(C(CC1CS)CS)=O | C13H17NOS2
reactant | dihydropyran | 110 mg | O1CCCC=C1 | C5H8O
solvent | ether | 2 ml | CCOCC | C4H10O
solvent | ether | 2 ml | CCOCC | C4H10O
solvent | ether | 1 ml | CCOCC | C4H10O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-benzyl-2,4-bis(2-tetrahydropyranylthiomethyl)-4-butanelactam | C(C1=CC=CC=C1)N1C(C(CC1CSC1OCCCC1)CSC1OCCCC1)=O | C23H33NO3S2
